US04652646
6-(4-tert-Butylphenyl)-[1,3,4]thiadiazolo[3,2-a][1,2,3]triazolo[4,5-d]pyrimidin-9(1H)-one
1.0 of 6,7-diamino-2-(4-tert-butylphenyl)-5H-[1,3,4]thiadiazolo[3,2-a]pyrimidin-5-one was suspended in a mixture of 20 ml of concentrated hydrochloric acid and 20 ml of water, and 2 ml of an aqueous solution containing 0.70 g of sodium nitrite was added dropwise thereto while cooling below 5° C. and stirring. The mixture was stirred at that temperature for 1.5 hours and then diluted with water. The resulting precipitate was filtered and recrystallized from chloroform-ethanol to obtain 0.88 g of the titled compound as pale yellow prisms. Melting Point: 293°-296° C. (decomposition).

reactant | 6,7-diamino-2-(4-tert-butylphenyl)-5H-[1,3,4]thiadiazolo[3,2-a]pyrimidin-5-one | NC1=C(N=C2N(C1=O)N=C(S2)C2=CC=C(C=C2)C(C)(C)C)N | C15H17N5OS
reactant | sodium nitrite | 0.70 g | N(=O)[O-].[Na+]
solvent | hydrochloric acid | 20 ml | Cl | ClH
solvent | water | 20 ml | O | H2O
product | 6-(4-tert-Butylphenyl)-[1,3,4]thiadiazolo[3,2-a][1,2,3]triazolo[4,5-d]pyrimidin-9(1H)-one | 0.88 g | C(C)(C)(C)C1=CC=C(C=C1)C1=NN2C(=NC3=C(C2=O)NN=N3)S1 | C15H14N6OS
